US08076516B2
Heck coupling of 3-bromo-N-cyclohexylbenzamide and N-allyl-2,2,2-trifluoroacetamide following the method described in Example 118 gave (E)-N-cyclohexyl-3-(3-(2,2,2-trifluoroacetamido)prop-1-enyl)benzamide as a light yellow solid. Yield (0.50 g, 71%): 1H NMR (400 MHz, CD3OD) δ 8.18-8.26 (m, 1H), 7.83 (t, J=1.6 Hz, 1H), 7.65-7.68 (m, 1H), 7.54-7.56 (m, 1H), 7.39 (t, J=7.6 Hz, 1H), 6.62 (d, J=16.0 Hz, 1H), 6.32 (dt, J=16.0, 6.4 Hz, 1H), 4.06 (d, J=5.6 Hz, 2H), 3.80-3.90 (m, 1H), 1.93-1.95 (m, 2H), 1.79-1.82 (m, 2H), 1.66-1.70 (m, 1H), 1.18-1.48 (m, 5H).

reactant | 3-bromo-N-cyclohexylbenzamide | BrC=1C=C(C(=O)NC2CCCCC2)C=CC1 | C13H16BrNO
reactant | N-allyl-2,2,2-trifluoroacetamide | C(C=C)NC(C(F)(F)F)=O | C5H6F3NO
product | (E)-N-cyclohexyl-3-(3-(2,2,2-trifluoroacetamido)prop-1-enyl)benzamide | C1(CCCCC1)NC(C1=CC(=CC=C1)\C=C\CNC(C(F)(F)F)=O)=O | C18H21F3N2O2
